*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/4.70e-02[uF]/25[V]
* Murata P/N :GRM155R71E473JA88
* Property : C = 4.70e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R71E473JA88 Port1 Port2
C01 Port1 N01 4.64e-08
R01 Port1 N01 1.00e+10
L02 N01 N02 1.46e-10
R03 N02 N03 2.19e-02
C04 N03 N04 5.92e-06
R04 N03 N04 6.25e+02
C05 N04 N05 8.26e-06
R05 N04 N05 7.01e+01
C06 N05 N06 6.71e-06
R06 N05 N06 1.57e+01
C07 N06 N07 5.91e-06
R07 N06 N07 2.22e+00
C08 N07 N08 4.57e-06
R08 N07 N08 2.97e-01
C09 N08 N09 3.68e-06
R09 N08 N09 4.57e-02
C10 N09 N10 4.59e-06
R10 N09 N10 7.38e-03
L11 N10 N11 1.82e-11
R11 N10 N11 3.12e-01
L12 N11 N12 7.35e-11
R12 N11 N12 1.09e-01
C13 N12 N13 1.70e-06
L13 N12 N13 2.50e-12
R13 N12 N13 5.59e-03
C14 N13 N14 4.78e-08
L14 N13 N14 4.35e-11
R14 N13 N14 3.58e-02
C15 N14 Port2 3.60e-12
L15 N14 Port2 7.97e-11
R15 N14 Port2 2.67e+01
.ENDS GRM155R71E473JA88
